US04782055
Fuming nitric acid (0.52 ml) was added dropwise to a solution of 2,6-dimethylbenzyl acetate (1.78 g) in acetic anhydride (8.9 ml) at 0° C. and then stirred for 2.5 hours. After being stirred for an additional 30 minutes at room temperature, the mixture was poured onto crushed ice, neutralized with sodium bicarbonate, and extracted with ethyl acetate. The extract was washed with water and evaporated in vacuo. To the residue were added methanol (24 ml) and 1N sodium hydroxide solution (12 ml) and the mixture was stirred at room temperature for 1 hour and evaporated in vacuo. The residue was washed with water, air-dried, and recrystallized from a mixture of benzene and n-hexane to give 2,6-dimethyl-3-nitrobenzyl alcohol (1.26 g).

reactant | nitric acid | 0.52 ml | [N+](=O)(O)[O-] | HNO3
reactant | 2,6-dimethylbenzyl acetate | 1.78 g | C(C)(=O)OCC1=C(C=CC=C1C)C | C11H14O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetic anhydride | 8.9 ml | C(C)(=O)OC(C)=O | C4H6O3
product | 2,6-dimethyl-3-nitrobenzyl alcohol | 1.26 g | CC1=C(CO)C(=CC=C1[N+](=O)[O-])C | C9H11NO3
